US03975383
Methyl 3-benzyl-7-tritylamino-3-cephem-4-carboxylate (111 mg) was dissolved in acetone (1.5 ml.) and the solution cooled to -20°. p-Toluene sulphonic acid (40 mg) in acetone (0.5 ml) was added dropwise over a few minutes and the solution left at 0° for 16 hours. Thin layer chromatography (TLC) still showed some unchanged starting material was present. A further quantity of p-toluene sulphonic acid (10 mg) was added and the solution left at room temperature for 4 hours. Ethyl acetate was added and the solution washed with dilute aqueous sodium bicarbonate and brine. Evaporation of the dried organic layer afforded methyl 3-benzyl-7-amino-3-cephem-4-carboxylate contaminated with trityl alcohol.

reactant | Methyl 3-benzyl-7-tritylamino-3-cephem-4-carboxylate | 111 mg | C(C1=CC=CC=C1)C=1CS[C@H]2N(C1C(=O)OC)C(C2NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C34H30N2O3S
reactant | p-Toluene sulphonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluene sulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | methyl 3-benzyl-7-amino-3-cephem-4-carboxylate | C(C1=CC=CC=C1)C=1CS[C@H]2N(C1C(=O)OC)C(C2N)=O | C15H16N2O3S
